US08105662B2
A solution of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (4.8 g) in dichloromethane (60 ml) was slowly added to a solution of 8-(2-furylmethoxy)-8-oxooctyl 2,5-dihydroxybenzoate (3.7 g), 4-(6-acryloylhexyloxy)benzoic acid (7.3 g) and 4-dimethylaminopyridine (0.6 g) in dichloromethane (150 ml) at 0° C. The mixture was stirred overnight at room temperature. The resulting solution was then added to water (600 ml) and extracted with dichloromethane (3×200 ml). The combined organic layers were washed with water (2×200 ml), dried over magnesium sulphate and filtered. The solvent removed in vacuum. The residue (10.4 g) was purified by column flash chromatography on silica gel using toluene/ethyl acetate (95:5) as eluent, to give 8-(2-furylmethoxy)-8-oxooctyl 2,5-bis[(4-{[6-(acryloyloxy)hexyl]oxy}benzoyl)oxy]benzoate.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.8 g | Cl.CN(CCCN=C=NCC)C
reactant | 8-(2-furylmethoxy)-8-oxooctyl 2,5-dihydroxybenzoate | 3.7 g | OC1=C(C(=O)OCCCCCCCC(=O)OCC=2OC=CC2)C=C(C=C1)O | C20H24O7
reactant | 4-(6-acryloylhexyloxy)benzoic acid | 7.3 g | C(C=C)(=O)CCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O4
reactant | water | 600 ml | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 8-(2-furylmethoxy)-8-oxooctyl 2,5-bis[(4-{[6-(acryloyloxy)hexyl]oxy}benzoyl)oxy]benzoate | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)OC2=C(C(=O)OCCCCCCCC(=O)OCC=3OC=CC3)C=C(C=C2)OC(C2=CC=C(C=C2)OCCCCCCOC(C=C)=O)=O)C=C1 | C52H60O15
